US08278328B2
5-hydroxy-2-methyl-4-nitrobenzonitrile (D91, 185 mg, 1.04 mmol) was dissolved in EtOH:EtOAc (24 mL, 1:1) and was reduced using an H-Cube (full H2 mode, 25° C., 1 mL/min). The reaction was concentrated by rotary evaporation to give 4-amino-5-hydroxy-2-methylbenzonitrile (D92, 152 mg, 95%) as a pale yellow solid.

reactant | 5-hydroxy-2-methyl-4-nitrobenzonitrile | 1.04 mmol, 185 mg | OC=1C(=CC(=C(C#N)C1)C)[N+](=O)[O-] | C8H6N2O3
reactant | EtOAc | 24 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | CCO | C2H6O
product | 4-amino-5-hydroxy-2-methylbenzonitrile | 152 mg, 95% | NC1=CC(=C(C#N)C=C1O)C | C8H8N2O
